### PR TITLE
[Merged by Bors] - feat: port Order.Lattice

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
Tracking mathlib commit: [fd47bdf09e90f553519c712378e651975fe8c829](https://github.com/leanprover-community/mathlib/commit/fd47bdf09e90f553519c712378e651975fe8c829)

### CODE REVIEW

**Comment by Ruben-VandeVelde** [comment]
Anyone should feel free to work on this; I'll take another look later.

File: Mathlib/Order/Lattice.lean [hunk 1]
```diff
@@ -0,0 +1,1424 @@
...
+### Join-semilattices
+-/
+
+
+-- TODO: automatic construction of dual definitions / theorems
+/-- A `semilattice_sup` is a join-semilattice, that is, a partial order
+  with a join (a.k.a. lub / least upper bound, sup / supremum) operation
+  `⊔` which is the least element larger than both factors. -/
+-- Porting note: no protect_proj attribute
+--@[protect_proj]
```
Comment (semorrison) [inline Mathlib/Order/Lattice.lean:81]: You can just delete `@[protect_proj]`, but then write `protected ` in front of each field of the class.

File: Mathlib/Order/Lattice.lean [hunk 2]
```diff
@@ -0,0 +1,1481 @@
...
+  sup_sup_sup_comm _ _ _ _
+#align max_max_max_comm max_max_max_comm
+
+theorem min_min_min_comm : min (min a b) (min c d) = min (min a c) (min b d) :=
+  inf_inf_inf_comm _ _ _ _
+#align min_min_min_comm min_min_min_comm
+
+end LinearOrder
+
+-- TODO Move
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/Lattice.lean:913]: Scott suggests `Mathlib/Init/Algebra/Order.lean`

**Comment by Ruben-VandeVelde** [comment]
Thanks @dwarn!

File: Mathlib/Order/Lattice.lean [hunk 3]
```diff
@@ -0,0 +1,1469 @@
...
+
+theorem sup_ind (a b : α) {p : α → Prop} (ha : p a) (hb : p b) : p (a ⊔ b) :=
+  (IsTotal.total a b).elim (fun h : a ≤ b => by rwa [sup_eq_right.2 h]) fun h => by
+  rwa [sup_eq_left.2 h]
+#align sup_ind sup_ind
+
+@[simp]
+theorem le_sup_iff : a ≤ b ⊔ c ↔ a ≤ b ∨ a ≤ c := by
+  -- Porting note: why is this necessary?
+  have := inferInstanceAs (IsTotal α (· ≤ ·))
```
Comment (semorrison) [inline Mathlib/Order/Lattice.lean:849]: Also a bit worried here. Without this have statement it's looking for the exact same instances but can't find it.

File: Mathlib/Order/Basic.lean [hunk 4]
```diff
@@ -882,7 +882,8 @@ end Preorder
 /-- The pointwise partial order on a product.
     (The lexicographic ordering is defined in `Order.Lexicographic`, and the instances are
     available via the type synonym `α ×ₗ β = α × β`.) -/
-instance (α : Type u) (β : Type v) [PartialOrder α] [PartialOrder β] : PartialOrder (α × β) where
+instance partialOrder (α : Type u) (β : Type v) [PartialOrder α] [PartialOrder β] :
```
Comment (urkud) [inline Mathlib/Order/Basic.lean:885]: What is the reason to force lowercase `p` here?

File: Mathlib/Order/Lattice.lean [hunk 5]
```diff
@@ -0,0 +1,1469 @@
...
+
+theorem sup_le_sup_left (h₁ : a ≤ b) (c) : c ⊔ a ≤ c ⊔ b :=
+  sup_le_sup le_rfl h₁
+#align sup_le_sup_left sup_le_sup_left
+
+theorem sup_le_sup_right (h₁ : a ≤ b) (c) : a ⊔ c ≤ b ⊔ c :=
+  sup_le_sup h₁ le_rfl
+#align sup_le_sup_right sup_le_sup_right
+
+-- Porting note: was @[simp]
```
Comment (urkud) [inline Mathlib/Order/Lattice.lean:236]: Why is it no longer `simp`?

File: Mathlib/Order/Lattice.lean (hunk 3 above)
Comment (urkud) [reply Mathlib/Order/Lattice.lean:849]: What if you use the Lean4 version of `le_total`?

File: Mathlib/Order/Lattice.lean [hunk 6]
```diff
@@ -0,0 +1,1469 @@
...
+instance Nat.distribLattice : DistribLattice ℕ := by infer_instance
+#align nat.distrib_lattice Nat.distribLattice
+
+/-! ### Dual order -/
+
+
+open OrderDual
+
+@[simp]
+theorem of_dual_inf [HasSup α] (a b : αᵒᵈ) : ofDual (a ⊓ b) = ofDual a ⊔ ofDual b :=
```
Comment (urkud) [inline Mathlib/Order/Lattice.lean:961]: Do we use `of_dual` or `ofDual` in lemma names?

Comment (digama0) [reply Mathlib/Order/Lattice.lean:961]: this would be `ofDual_inf`

File: Mathlib/Order/Lattice.lean (hunk 5 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Order/Lattice.lean:236]: `simp` can prove it now

File: Mathlib/Order/Basic.lean (hunk 4 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Order/Basic.lean:885]: It was my understanding that instances are named like defs with lowerCamelCase, is that wrong? Alternatively I could try to drop the explicit names

File: Mathlib/Order/Lattice.lean (hunk 3 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Order/Lattice.lean]: `le_total` works. Still strange that `total_of` doesn't, though

File: Mathlib/Order/Lattice.lean [hunk 7]
```diff
@@ -0,0 +1,1469 @@
...
+
+/-- A subtype forms a lattice if `⊔` and `⊓` preserve the property.
+See note [reducible non-instances]. -/
+@[reducible]
+protected def lattice [Lattice α] {P : α → Prop} (Psup : ∀ ⦃x y⦄, P x → P y → P (x ⊔ y))
+    (Pinf : ∀ ⦃x y⦄, P x → P y → P (x ⊓ y)) : Lattice { x : α // P x } :=
+  { Subtype.semilatticeInf Pinf, Subtype.semilatticeSup Psup with }
+#align subtype.lattice Subtype.lattice
+
+-- Porting note: norm_cast: badly shaped lemma, lhs must contain at least one coe
```
[the remark this answers is not in the document]
Comment (j-loreaux) [reply Mathlib/Order/Lattice.lean:1354]: The problem here is that `Subtype.val` has not been marked with the `coe` attribute. Adding `attribute [coe] Subtype.val` allows the lemmas to be marked with `norm_cast` with no issues, however, surely `attribute [coe] Subtype.val` doesn't belong in this file. I'm not sure where is the right place to put it. I'm also very surprised that this isn't marked with `coe` in core (or `Std`).

File: Mathlib/Order/Basic.lean (hunk 4 above)
Comment (urkud) [reply Mathlib/Order/Basic.lean:885]: I don't know. I started looking at mathlib 4 port less than 24h ago. So, I'm asking stupid questions. It seems strange to me to use explicit names for all instances.

Comment (Ruben-VandeVelde) [reply Mathlib/Order/Basic.lean:885]: I removed the explicit names for everything except
```
OrderDual.semilatticeSup
OrderDual.semilatticeInf
OrderDual.distribLattice
```

Comment (semorrison) [reply Mathlib/Order/Basic.lean:885]: *If* you wanted to name this instance, this would be the correct name. The rule is that CamelCase names get turned into lowerCamelCase when used in definitions referring to them.

File: Mathlib/Order/Lattice.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/Order/Lattice.lean]: I've added `coe` now.

**Comment by semorrison** [comment]
bors merge
